US09326976B2
Intermediate 5. Methyl 4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)methyl]-phenoxy]methyl]benzoate
A suspension of methyl 4-[[3-(anilinomethyl)phenoxy]methyl]benzoate (380 mg, 1.1 mmol) and (R)-quinuclidin-3-yl carbonochloridate hydrochloride (described in the co-pending International Patent Application No. PCT/EP2013/075529 (published as WO 2014/086855) as Intermediate 16) (300 mg, 1.33 mmol) in anhydrous CH3CN (5 mL) was heated to 100° C. for 15 min under microwave irradiation. After cooling to room temperature, the mixture was diluted with EtOAc (50 mL) and washed with saturated aqueous NaHCO3 (20 mL) The layers were separated and the organic phase was dried over Na2SO4, filtered and the solvent was removed in vacuo to yield the title compound (419 mg, 76% yield) which was used directly in the next step without any further purification.

reactant | methyl 4-[[3-(anilinomethyl)phenoxy]methyl]benzoate | 1.1 mmol, 380 mg | N(C1=CC=CC=C1)CC=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1 | C22H21NO3
reactant | (R)-quinuclidin-3-yl carbonochloridate hydrochloride | Cl.C(O[C@H]1CN2CCC1CC2)(=O)Cl
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | Methyl 4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)methyl]-phenoxy]methyl]benzoate | 419 mg, 76% yield | N12C[C@@H](C(CC1)CC2)OC(=O)N(C2=CC=CC=C2)CC=2C=C(OCC1=CC=C(C(=O)OC)C=C1)C=CC2 | C30H32N2O5
